US05366987
Synthesis of 5-dodecyl-α-(1-methylethyl)-N-(2,4,6-trimethoxyphenyl)-2H-tetrazole-2-acetamide
When in the general procedure of Example 88 an appropriate amount of 5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetic acid was substituted for 5-decyl-2H-tetrazole-2-acetic acid and 2,4,6-trimethoxyaniline was substituted for 2,6-diisopropylaniline, the title compound was obtained, mp 135°-137° C.

reactant | 5-dodecyl-α-(1-methylethyl)-2H-tetrazole-2-acetic acid | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)O)C(C)C | C18H34N4O2
reactant | 5-decyl-2H-tetrazole-2-acetic acid | C(CCCCCCCCC)C=1N=NN(N1)CC(=O)O | C13H24N4O2
reactant | 2,4,6-trimethoxyaniline | COC1=C(N)C(=CC(=C1)OC)OC | C9H13NO3
reactant | 2,6-diisopropylaniline | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | 5-dodecyl-α-(1-methylethyl)-N-(2,4,6-trimethoxyphenyl)-2H-tetrazole-2-acetamide | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C(C)C | C27H45N5O4
